US08859777B2
To a solution of 4-(4-chlorophenyl)-4-hydroxypiperidine (1.75 g, 8.22 mmol) in methylene chloride (100 mL) was added di-tert-butyldicarbonate (1.98 g, 9.10 mmol) followed by diisopropylethylamine (1.17 g, 9.10 mmol) and the resulting solution stirred at room temperature for 6 hours. After this time the reaction was quenched by the addition of 25% aqueous ammonium chloride (250 mL) and the layers separated. The organic layer was washed with water (100 mL) and brine (100 mL) and dried over magnesium sulfate. Subsequent filtration and concentration under reduced pressure afforded tert-butyl 4-(4-chlorophenyl)-4-hydroxypiperidine-1-carboxylate in 81% yield as a viscous clear oil which solidified on standing.

reactant | 4-(4-chlorophenyl)-4-hydroxypiperidine | 8.22 mmol, 1.75 g | ClC1=CC=C(C=C1)C1(CCNCC1)O | C11H14ClNO
reactant | di-tert-butyldicarbonate | 9.10 mmol, 1.98 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | diisopropylethylamine | 9.10 mmol, 1.17 g | C(C)(C)N(CC)C(C)C | C8H19N
solvent | methylene chloride | 100 mL | C(Cl)Cl | CH2Cl2
product | tert-butyl 4-(4-chlorophenyl)-4-hydroxypiperidine-1-carboxylate | 81% yield | ClC1=CC=C(C=C1)C1(CCN(CC1)C(=O)OC(C)(C)C)O | C16H22ClNO3
